US07820700B2
(3-Cyano-4-benzyloxy-5-fluorophenyl)boronic acid and methyl 2-chloroisonicotinate were dissolved in a mixed solution of toluene and a 2M aqueous sodium carbonate solution, followed by heating under reflux for 3 hours in the presence of tetrakis(triphenylphosphine)palladium to obtain methyl 2-(3-cyano-4-benzyloxy-5-fluorophenyl)isonicotinate. F: 363.

reactant | (3-Cyano-4-benzyloxy-5-fluorophenyl)boronic acid | C(#N)C=1C=C(C=C(C1OCC1=CC=CC=C1)F)B(O)O | C14H11BFNO3
reactant | methyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(3-cyano-4-benzyloxy-5-fluorophenyl)isonicotinate | C(#N)C=1C=C(C=C(C1OCC1=CC=CC=C1)F)C=1C=C(C(=O)OC)C=CN1 | C21H15FN2O3
